US04064131
43.2 gm. of at least 98 percent pure 1,3-phenylene diamine (melting point: 60° to 62° C) and 100 ml of 10 percent acetic acid are placed in a sulfurizing flask equipped with an anchor bolt, reflux cooler, dripping funnel, thermometer and water bath. 35.2 gm. of diketene were allowed to drip into the reaction mixture over the course of about 20 minutes at room temperature. The reaction mixture was stirred during the addition. The temperature was allowed to rise with the aid of the reaction heat to 60° to 65° C. After completion of the addition of diketene, the reaction was allowed to continue for another hour at 60° to 65° C. After cooling to about 15° C. the resultant precipitate was separated out and dried under vacuum at 60° to 70° C until the precipitate reached a constant weight. 49.2 gm. of yellow, discolored 1,2-dihydro-2-oxo-1-methyl-7-amino-quinoline with a melting point of 268° to 269° C were obtained, which corresponded to a yield of 70.7 percent, based on the m-phenylene diamine. After a single recrystallization from dimethylformamide/H2O (1:1), the product was colorless and had a melting point of 274.6° to 275.4°C.

reactant | 1,3-phenylene diamine | C1(=CC(=CC=C1)N)N | C6H8N2
reactant | diketene | C=C1CC(=O)O1 | C4H4O2
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 1,2-dihydro-2-oxo-1-methyl-7-amino-quinoline | yield of 70.7 percent | O=C1N(C2=CC(=CC=C2C=C1)N)C | C10H10N2O
